US06605626B2
Preparation of N-(4-Methoxybenzoyl)-2-(5-tert-butyl-1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)benzeneamine
A slurry of N1-(4-methoxybenzoyl)-1,2-benzenediamine (100 mg, 0.413 mmol) and 4-tert-butylphthalic anhydride (84.3 mg, 0.413 mmol) in toluene (1.5 mL) was placed in a bath heated to 110° C. After 16 h, the mixture was concentrated in vacuo and the residue purified by flash chromatography (silica gel, hexanes/ethyl acetate) to afford 149 mg (85%) of the title compound. The material was further purified by recrystallization from hexanes/ethyl acetate.

reactant | N1-(4-methoxybenzoyl)-1,2-benzenediamine | 0.413 mmol, 100 mg | COC1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C14H14N2O2
reactant | 4-tert-butylphthalic anhydride | 0.413 mmol, 84.3 mg | C(C)(C)(C)C=1C=C2C(C(=O)OC2=O)=CC1 | C12H12O3
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-Methoxybenzoyl)-2-(5-tert-butyl-1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)benzeneamine | 149 mg, 85% | COC1=CC=C(C(=O)NC2=C(C=CC=C2)N2C(C3=CC=C(C=C3C2=O)C(C)(C)C)=O)C=C1 | C26H24N2O4
